** HSPICE file for rdtype_ld
**   - generated by ext2sp v4.1

** Include netlist file for rdtype_ld
.include rdtype_ld.spice

** Default 3.3V Power Supply
Vsupply Vdd GND 3.3V

** Specify input signals here
** e.g. for inputs A and B
   VA ND GND PWL(
      +0NS        0V  
      +2NS        0V  
      +2.25NS     3.3V  
      +6NS        3.3V  
      +6.25NS     0V
   +)
   VB NCLOCK GND PWL(
      +0NS        3.3V  
      +1NS        3.3V  
      +1.25NS     0V  
      +2NS        0V  
      +2.25NS     3.3V
      +3NS        3.3V
      +3.25NS     0V
      +4NS        0V
      +4.25NS     3.3V
      +5NS        3.3V
      +5.25NS     0V
      +6NS        0V
      +6.25NS     3.3V  
      +7NS        3.3V  
      +7.25NS     0V  
      +8NS        0V  
      +8.25NS     3.3V
      +9NS        3.3V
   +)
   VC NNRESET GND PWL(
      +0NS        0V  
      +9NS        0V  
      +9.25NS     3.3V  
      +10NS       3.3V  
   +)

** Default Simulation - Type, Resolution & Duration
.TRAN 10PS 12NS

** Specify ouput signals to measure here
** e.g. rise and fall delays for output Y
   
   .measure tran x_Q_rise_delay 
      +TRIG v(Clock) VAL='3.3*0.9' TD=0NS RISE=1
      +TARG v(Q) VAL='3.3*0.1' TD=0NS RISE=1
   .measure tran x_Q_fall_delay 
      +TRIG v(Clock) VAL='3.3*0.1' TD=0NS RISE=2
      +TARG v(Q) VAL='3.3*0.9' TD=0NS FALL=1

   .measure tran x_nQ_rise_delay 
      +TRIG v(Clock) VAL='3.3*0.9' TD=0NS RISE=1
      +TARG v(nQ) VAL='3.3*0.1' TD=0NS FALL=1
   .measure tran x_nQ_fall_delay 
      +TRIG v(Clock) VAL='3.3*0.1' TD=0NS RISE=2
      +TARG v(nQ) VAL='3.3*0.9' TD=0NS RISE=1

   .measure tran x_nReset_Q_delay 
      +TRIG v(nReset) VAL='3.3*0.9' TD=0NS FALL=1
      +TARG v(Q) VAL='3.3*0.1' TD=0NS FALL=2

   .measure tran x_nReset_nQ_delay 
      +TRIG v(nReset) VAL='3.3*0.9' TD=0NS FALL=1
      +TARG v(nQ) VAL='3.3*0.1' TD=0NS RISE=2
   


   .measure Clock_to_Q PARAM = '(x_Q_rise_delay + x_Q_fall_delay)/2'
   .measure Clock_to_nQ PARAM = '(x_nQ_rise_delay + x_nQ_fall_delay )/2'
   .measure nReset_to_Q PARAM = '(x_nReset_Q_delay )/2'
   .measure nReset_to_nQ PARAM = '( x_nReset_nQ_delay)/2'



** Save results for display
.OPTIONS POST
** Avoid DC convergence in at unreasonable voltage
.OPTIONS GMINDC=1n

.END
